US07888364B2
50 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 1-(4-fluorophenyl)-5-methyl-1H-pyrazole-4-carboxylic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-1-(4-fluorophenyl)-5-methyl-1H-pyrazole-4-carboxamide. MS (Q1) 407.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 1-(4-fluorophenyl)-5-methyl-1H-pyrazole-4-carboxylic acid | FC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9FN2O2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-1-(4-fluorophenyl)-5-methyl-1H-pyrazole-4-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)F)C1=NC=CC=C1 | C22H16ClFN4O
